Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abscess 
 
Major Surgical or Invasive Procedure:
___: Incision and drainage of abdominal wall abcess

 
History of Present Illness:
In brief, Ms. ___ is a ___ year-old female with a abdominal 
wall abscess with surrounding erythema, likely from a fistula 
from her
gastric remnant to the abdominal wall. She has been seen by
___ surgery for complete evaluation - please see note from
___ for details. At the request of the ___ service,
the patient is being transferred to the ___ service. 

The patient will be kept NPO with antibiotics. We plan on taking
her to the operating room for incision and debridement of her
abdominal wall abscess. If this is truly a fistula, this should
allow it to drain adequately. We will monitor drainage
post-operatively and determine further treatment accordingly. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
 Hospitalizations: She was hospitalized in ___ 
___
after SA of trying to drown herself in a brook, and once 
slightly
more than one month ago at Baldpate related to drinking and
depression.
 Current treaters and treatment: No current psychiatrist and
therapist.  
 Medication and ECT trials: Was prescribed Zoloft and low-dose
Seroquel after hospitalization.
 Self-injury: as a child with intermittent right wrist
superficial cutting, previously with 2 suicide attempts: one as 
a
child when he had a bottle of ibuprofen and immediately called
for help, one time in ___ when she tried to drown herself in a
brook in the woods, immersed herself in cold water and
immediately regretted decision and left ___.  
 Harm to others: denies
 Access to weapons: access to fiancé's chef knives at home.  

PAST MEDICAL HISTORY:
s/p roux-en-y gastric bypass ___ at ___
marginal ulcerations
PUD
suicidal ideations/past attempts
alcohol dependence/abuse
injured in bicycle accident in ___ requiring ex-lap
 
Social History:
SOCIAL HISTORY: 
 Born and raised in: ___ 
 Family/Support: States feels close with Dad and step-mom, who 
live in nearby ___, gets support from her fiancé, feels 
close 
to her older sister who lives in ___.  
 Housing: Lives in apartment with fiancé.  
 Education: Graduated high school. 
 Employment/Income: Used to work at ___, for past few months 
not employed and supported financially by fiancé. 
 Spiritual: Not religious 
 Trauma history: "Not that I know of", though states frequently 
verbally insulted by mother when growing up.  
 
SUBSTANCE ABUSE HISTORY: 
-Tobacco: Quit 5 months ago, previously smoked ___ ppd 
-ETOH: Heavy drinker since age ___, recently and until about 1 
month ago when hospitalized for detox at ___ was drinking 
___ L whiskey or vodka each night, and between ___ also 
had 
one bottle of wine per night in addition to this. States had not 

had alcohol since ___ hospitalization for about ___ weeks 
with exception of 0.5 L whiskey on ___ when she was trying 
to injure herself.  
-Illicit drugs: Has tried cocaine a few times before but reports 

not recently.  
 
FORENSIC HISTORY: 
 Arrests: denies 
 Convictions and jail terms: denies 
 Current status (pending charges, probation, parole): N/A 

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Mother reported to have history of alcohol use problems.
-Great aunt with schizophrenia.
 
Physical Exam:
Discharge Physical Exam:
VS: T: 97.8, BP: 94/54,  HR: 91 RR: 16 O2: 96% RA
GENERAL: NAD Alert and oriented X3
HEENT: EOMI, PERRLA, mucosa moist, no icterus; neck supple. 
CV: RRR, no MRG
Pulm: CTA ___ 
Abd: soft, non-distended, non-tender; tender to palpation over 
incision site (3cm length; 3cm deep); draining. Mild surrounding 
erythema. 
Neuro: grossly intact; CN II-XII: wnl
 
Pertinent Results:
___ 09:30AM   GLUCOSE-153* UREA N-5* CREAT-0.6 SODIUM-133 
POTASSIUM-3.8 CHLORIDE-98 TOTAL CO2-25 ANION GAP-14
___ 09:30AM   ALT(SGPT)-37 AST(SGOT)-149* ALK PHOS-99 TOT 
BILI-2.8*
___ 09:30AM   ALBUMIN-2.5* CALCIUM-7.8* PHOSPHATE-3.7 
MAGNESIUM-1.6
___ 09:30AM   WBC-4.2 RBC-3.21* HGB-8.5* HCT-27.8* MCV-87 
MCH-26.5 MCHC-30.6* RDW-23.2* RDWSD-71.5*
___ 09:30AM   PLT COUNT-222#
___ 09:30AM   ___ PTT-38.9* ___
___ 03:39PM URINE  UCG-NEGATIVE

___: CT ABD/PEL:
1. Gastro-cutaneous fistula extending from the native gastric 
antrum to the right upper quadrant as detailed above. 
2. Dysmorphic appearing liver and splenomegaly as detailed 
above, compatible with the known underlying cirrhosis and 
underlying portal hypertension.  Small amount of associated 
ascites has increased compared to prior evaluation.  Assessment 
for solid liver lesions is very limited due to lack of 
intravenous contrast. 
3. Large right pleural effusion, partially imaged but slightly 
worse as 
compared to prior, as detailed above. 

 
Brief Hospital Course:
Ms. ___ is a ___ year-old female with a history of roux-en-y 
gastric bypass (___) who was found to have an abdominal wall 
abscess with surrounding erythema.  CT abdomen/pelvis revealed a 
likely from a fistula from her gastric remnant to the abdominal 
wall.  She was admitted to the Acute Care Surgery service from 
___ 4 Psychiatry for further medical.  The patient was 
kept NPO and was taken to the operating room on ___ and 
underwent incision and drainage of her abdominal wall abscess.  
The patient tolerated the procedure well and, after remaining 
hemodynamically stable in the PACU, was transferred to the floor 
for further medical care. 

The patient was started on 4 day course of augmentin.  Dressings 
were packed with gauze packing strip and covered with 4x4 
sterile gauze dressing.  The patient is scheduled to have a 
fistulogram study on ___ to assess for gastrocutaneous 
fistula. 

The patient was alert and oriented throughout hospitalization; 
pain was managed with oral acetaminophen and oxycodone once 
tolerating a diet.  She received a one time 0.5mg dose of IV 
hydromorphone for a wound dressing change. The patient remained 
stable from a cardiovascular standpoint; vital signs were 
routinely monitored. The patient remained stable from a 
pulmonary standpoint. Good pulmonary toilet, early ambulation 
and incentive spirometry were encouraged throughout 
hospitalization. On POD0, the patient had one episode of emesis 
and received po Zofran with good effect. Diet was advanced 
sequentially to a Regular diet, which was well tolerated. 
Patient's intake and output were closely monitored.  The 
patient's blood counts were closely watched for signs of 
bleeding, of which there were none. The patient received 
subcutaneous heparin and ___ dyne boots were used during this 
stay and was encouraged to get up and ambulate as early as 
possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.  The patient was discharged 
to ___ for further medical care. 

 
Medications on Admission:
Protonix 40'
Carafate 1g TID
Zoloft 100'
Seroquel 75'
Trazodone 100 qHS
sertraline 100'
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID:PRN constipation 
2. FoLIC Acid 1 mg PO DAILY 
3. Furosemide 40 mg PO DAILY 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
do NOT drink alcohol or drive while taking this medication  
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0
6. Pantoprazole 40 mg PO Q12H 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. QUEtiapine Fumarate 50 mg PO TID 
9. Sarna Lotion 1 Appl TP TID:PRN puritis 
10. Senna 8.6 mg PO QHS:PRN constipation 
11. Sertraline 150 mg PO DAILY 
12. Spironolactone 100 mg PO DAILY 
13. Sucralfate 1 gm PO TID BEFORE MEALS 
14. Thiamine 100 mg PO DAILY 
15. TraZODone 50 mg PO QHS insomnia 
16. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
please take with food 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*7 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Abdominal wall abscess 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery service with an 
abdominal wall abscess.  You were taken to the operating room 
and underwent incision and drainage of this abscess.  You 
tolerated this procedure well. The incision requires packing to 
help with healing and you were started on an oral antibiotic to 
prevent infection. You are now medically cleared to be 
discharged to the Psychiatry department on ___ 4.  

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.

 
Followup Instructions:
___